US04435390
2.0 g of 11β,21-dihydroxy-17-(3-methoxypropionyloxy)-6α-methyl-1,4-pregnadiene-3,20-dione is reacted analogously to Example 5(c) with acetic anhydride, worked up, and purified, thus isolating 1.36 g of 21-acetoxy-11β-hydroxy-17-(3-methoxypropionyloxy)-6α-methyl-1,4-pregnadiene-3,20-dione, mp 162° C.

reactant | 11β,21-dihydroxy-17-(3-methoxypropionyloxy)-6α-methyl-1,4-pregnadiene-3,20-dione | 2.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CCOC)=O)C)=O)C | C26H36O7
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 21-acetoxy-11β-hydroxy-17-(3-methoxypropionyloxy)-6α-methyl-1,4-pregnadiene-3,20-dione | 1.36 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CCOC)=O)=O | C28H38O8
